US05767120
Dissolved N-[2-(5-ethoxy-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)ethyl]-N-methylamine (150 mg, 0.508 mmol) in 5 mL of dry dichloromethane. Cooled to 0° C. under a nitrogen atmosphere, and added triethylamine (0.14 mL, 0.10 g, 1.0 mmol) and then methanesulfonyl chloride (0.06 mL, 0.089 g, 0.76 mmol) dropwise via syringe. Stirred at 0° C. for 90 mins. Added water, and extracted with dichloromethane. Washed the combined organic extracts with sodium phosphate monobasic, 1N NaOH, and then saturated NaCl. Dried with MgSO4, filtered, and evaporated. Purified crude product by flash chromatography eluting with 9:1 hexane:ethyl acetate. Combined appropriate fractions, and evaporated to solid. Recrystallized from ethyl acetate-hexane to give 92 mg (48% yield) of N-[2-(5-ethoxy-10,11-dihydro-5H-dibenzo[a,d]cycloheptenyl)ethyl]-N-methyl-methanesulfonamide as a white, solid.

reactant | N-[2-(5-ethoxy-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)ethyl]-N-methylamine | 0.508 mmol, 150 mg | C(C)OC1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)CCNC | C20H25NO
reactant | triethylamine | 1.0 mmol, 0.14 mL, 0.10 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.76 mmol, 0.06 mL, 0.089 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-[2-(5-ethoxy-10,11-dihydro-5H-dibenzo[a,d]cycloheptenyl)ethyl]-N-methyl-methanesulfonamide | 92 mg, 48% yield | C(C)OC1C2=C(CCC3=C1C=CC=C3CCN(S(=O)(=O)C)C)C=CC=C2 | C21H27NO3S
